US06235731B1
1-Bromo-3-phenylpropane (210 mg, 1.05 mmol) was added to a stirred solution of N-[3-(2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride (389 mg, 0.904 mmol), triethylamine (459 mg, 4.53 mmol), sodium iodide (163 mg, 1.09 mmol) and 1,8-diazabicyclo[5.4.0]undecene (275 mg, 1.81 mmol) in acetonitrile (10 ml) at room temperature. After refluxing under nitrogen for 2 days, the reaction mixture was concentrated in vacuo. The residue was dissolved in water and extracted with chloroform. The extract was washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel (15 g) with Ethyl acetate-Methanol (8:1) to give N-[3-[4-(3-phenylpropan-1-yl)-2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide as a purple amorphous powder(285 mg, 66%).

reactant | 1-Bromo-3-phenylpropane | 1.05 mmol, 210 mg | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | N-[3-(2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 0.904 mmol, 389 mg | Cl.Cl.O=C1N(CCNC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 4.53 mmol, 459 mg | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.09 mmol, 163 mg | [I-].[Na+]
reactant | 1,8-diazabicyclo[5.4.0]undecene | 1.81 mmol, 275 mg | N12C=CCCCC2NCCC1 | C9H16N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[3-[4-(3-phenylpropan-1-yl)-2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 285 mg, 66% | C1(=CC=CC=C1)CCCN1CC(N(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)=O | C26H29N5O2S
